US07186729B2
Step 3: 4-(4-Chloro-phenyl)-4-hydroxy-3-methyl-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester
3-Methyl-4-oxo-piperidine-1,3-dicarboxylic acid-1-tert-butyl ester 3-methyl ester (1.1 g, 4.07 mmol) was dissolved in tetrahydrofuran and cooled to 0° C. To the solution was added 4-chlorophenyl magnesium bromide (12.2 mL, 12.2 mmol) dropwise over ˜½ h and then stirred at 0° C. for 1 h. The reaction was quenched with saturated solution of NH4Cl and extracted with ethyl acetate (3×). The organics were collected, dried over Mg2SO4, filtered and evaporated in vacuo, then purified by Biotage flash chromatography (10% ethyl acetate/90% hexane to 20% ethyl acetate/80% hexane) to yield the title compound (1.1 g, 70%). 1H-NMR (CDCl3): δ 1.17 (s, 3H), 1.44 (s, 9H), 1.55 (m, 1H), 1.96 (d, 1H) 3.00 (m, 1H), 3.37 (m, 2H), 3.53 (s, 3H), 3.91 (m, 2H), 4.07 (d, 1H), 7.27 (d, 2H), 7.43 (d, 2H). ESI-MS m/z: 384.1 (M+1), retention time 2.95.

reactant | 3-Methyl-4-oxo-piperidine-1,3-dicarboxylic acid-1-tert-butyl ester 3-methyl ester | 4.07 mmol, 1.1 g | COC(=O)C1(CN(CCC1=O)C(=O)OC(C)(C)C)C | C13H21NO5
reactant | 4-chlorophenyl magnesium bromide | 12.2 mmol, 12.2 mL | ClC1=CC=C(C=C1)[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-Chloro-phenyl)-4-hydroxy-3-methyl-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 1.1 g, 70% | COC(=O)C1(CN(CCC1(O)C1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C)C | C19H26ClNO5
